US04248620
In this Example 1-(3-trifluoromethylphenyl)-3-methyl-5-(1,2,2,2-tetrachloroethyl)imino-1,3-diazolidine-2,4-dione; (0.05 mol) is dissolved in 20 ml of acetonitrile. One equivalent of 2-fluoroaniline (0.05 mol) is added with stirring over a five minute period. Temperature is maintained at 25°-35° C. Triethylamine (0.05 mol) is then added with stirring over a 10-minute period. The temperature is maintained at 25°-35° C. for one hour. Methylene chloride (50 ml) is added and the solution is washed 3 times with 50 ml of water, dried over magnesium sulfate and filtered. The solvent is removed under high vacuum affording 1-(3-trifluoromethylphenyl)-3-methyl-5-(1-2'-fluorophenylamino-2,2,2-trichloroethyl)imino-1,3-diazolidine-2,4-dione.

reactant | 1-(3-trifluoromethylphenyl)-3-methyl-5-(1,2,2,2-tetrachloroethyl)imino-1,3-diazolidine-2,4-dione | FC(C=1C=C(C=CC1)N1C(N(C(C1=NC(C(Cl)(Cl)Cl)Cl)=O)C)=O)(F)F | C13H8Cl4F3N3O2
reactant | 2-fluoroaniline | 0.05 mol, One equivalent | FC1=C(N)C=CC=C1 | C6H6FN
reactant | Triethylamine | 0.05 mol | C(C)N(CC)CC | C6H15N
reactant | Methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-(3-trifluoromethylphenyl)-3-methyl-5-(1-2'-fluorophenylamino-2,2,2-trichloroethyl)imino-1,3-diazolidine-2,4-dione | FC(C=1C=C(C=CC1)N1C(N(C(C1=NC(C(Cl)(Cl)Cl)NC1=C(C=CC=C1)F)=O)C)=O)(F)F | C19H13Cl3F4N4O2
